US05919986
f) (4aS,8aR)-5-((R)-5-Hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one
590 mg (2.03 mmol) of (1S,4aS,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hex-3-ynyl]-4a-methyl-1,2,3,4,4a,7,8,8a-octahydro-naphthalen-1-ol was dissolved in 10 ml of abs. CH2Cl2 and oxidized with 1.91 g (5.08 mmol) of pyridinium dichromate during 2 h at ambient temperature. Filtration over Celite, evaporation to dryness, and flash chromatography (SiO2, Hexane/AcOEt=7/3) produced 446 mg of the title compound as colorless oil.

reactant | (1S,4aS,8aR)-5-[(R)-5-Hydroxy-1,5-dimethyl-hex-3-ynyl]-4a-methyl-1,2,3,4,4a,7,8,8a-octahydro-naphthalen-1-ol | 2.03 mmol, 590 mg | OC(C#CC[C@@H](C)C=1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C)(C)C | C19H30O2
reactant | pyridinium dichromate | 5.08 mmol, 1.91 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4aS,8aR)-5-((R)-5-Hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-3,4,4a,7,8,8a-hexahydro-2H-naphthalen-1-one | 446 mg | OC(C#CC[C@@H](C)C=1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C19H28O2
